US06008229
To a solution of 2,6-dimethyl-3-nitrobenzoic acid (3.09 g) in tetrahydrofuran (5 ml) was added borane-methyl sulfide complex (2.41 g) under ice-cooling, and the mixture was stirred for 30 minutes at the same temperature, for 1 hour at ambient temperature, and then for 4 hours under heating. To the mixture was added 1N hydrochloric acid under ice-cooling, and the mixture was allowed to stand overnight. The mixture was extracted with ethyl acetate twice, and the combined organic layer was washed with saturated sodium bicarbonate solution, water and brine, dried over magnesium sulfate and concentrated. The residue was recrystallized with diisopropyl ether to give 2,6- dimethyl-3-nitrobenzyl alcohol (2.296 g) as a pale yellow crystal.

reactant | 2,6-dimethyl-3-nitrobenzoic acid | 3.09 g | CC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])C | C9H9NO4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2,6- dimethyl-3-nitrobenzyl alcohol | 2.296 g | CC1=C(CO)C(=CC=C1[N+](=O)[O-])C | C9H11NO3
